datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]1([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]2([H:26])[C:15]([H:27])([H:28])[C:16]([H:29])([H:30])[C:17]([H:31])([H:32])[C:18]2([H:33])[C:19]1([H:34])[H:35]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:27])[H:6].[C:11]1([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]2([H:26])[C:15]([H:28])[C:16]([H:29])([H:30])[C:17]([H:31])([H:32])[C:18]2([H:33])[C:19]1([H:34])[H:35],84.0984
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5][O:6][H:7]>>[H:3][O:5][O:6][H:7].[O:0]=[C:1][O:2][H:4],70.236808
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([S:10][H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([S:10][H:15])[H:14],62.3416
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9][H:10]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][S:9][H:10],9.9
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:15])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[H:16])([H:12])([H:13])[H:14],37.656
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15],75.4794
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[H:15][H:16]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:16])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[H:15],108.90952
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],107.905
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])([C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:16])([H:3])([H:4])[H:5].[C:10](=[C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])[H:15],0.0
[C:3](=[O:4])[H:5].[N:0](=[O:1])[H:2]>>[H:2][C:3](=[O:4])[H:5].[N:0]=[O:1],0.48116
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31],31.4637
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:11])[H:12])[H:7])([H:5])[H:6].[H:10][H:13],18.2472608
[C:0]([C:1](=[C:2]([H:14])[H:15])[C:3](=[C:4]([H:16])[H:17])[C:5](=[C:6]([H:18])[H:19])[C:7](=[O:8])[O:9][O:10][C:11]([H:20])([H:21])[H:22])([H:12])[H:13]>>[C:0]1([H:12])([H:13])[C:1](=[C:2]([H:14])[H:15])[C:3](=[C:4]([H:16])[H:17])[C:5](=[C:6]([H:18])[H:19])[C:7](=[O:8])[O:9]1.[O:10][C:11]([H:20])([H:21])[H:22],78.3663
[C:0](#[C:1][C:2]1=[C:3][C:4]([H:8])([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2]#[C:3][C:4]([C:5](=[C:6][H:11])[H:10])([H:8])[H:9])[H:7],162.71576
[C:0]([C:1]([C:2]([C:3]1[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]1([H:10])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],156.9
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8](=[S:9])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6]([C:7]([C:8](=[S:9])[H:15])[H:14])([H:10])([H:11])[H:12],60.0822
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([H:21])[H:22])[C:16](=[C:17]([H:24])[H:25])[H:23])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])[H:22])[C:16](=[C:17]([H:24])[H:25])[H:23])[H:5],44.978
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])=[C:8]([C:9]([H:26])([H:27])[H:28])[C:10]([H:29])([H:30])[H:31])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:0]([C:1]1([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([C:7]([H:23])([H:24])[H:25])[C:8]1([C:9]([H:26])([H:27])[H:28])[C:10]([H:29])([H:30])[H:31])([H:11])([H:12])[H:13],48.116
